.SUBCKT MAX4212 1 2 99 50 97
****************INPUT STAGE**********************
I1 99 4 .5e-3
IBIASE 1 2 5.5ua
M1   5  2 4 99 MOSFET
R3   5 50 2828
M2   6  7 4 99 MOSFET
R4   6 50 2828
CI1  1  0 2P
CI2  2  0 2P
*DP1  1 99 DA
*DP2 50  1 DA
*DP3  2 99 DB
*DP4 50  2 DB
************************
************ GAIN, 1ST POLE, SLEW STAGE************
EH 99 98 99 50 0.5
G0  98  9 5 6 7.87e-3
VB 9 10 0V 
R0  98  9 127E3
C3 10 98 1.488e-11
*C3 10 98 1.166e-11
*** ***********
D1 9 111 DP
D2 112 9 DP
V11 99 111 50MV
V12 112 50 50MV
************
I2 99 50 5.1mA
VOS 7 1 0v
******** POLE STAGE **********
G3 98 15 10 98 1E-3
R12 98 15 1E3
***************************
*********** change for second pole
C5 98 15 .48p
*  
*************OUTPUT STAGE****************
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
G12 98 32 15 98 1E-3
*          ^ INSERT NODE FROM LAST STAGE HERE
R15 98 32 1E3
*D3 32 36 Dx
*D4 37 32 Dx
*V5 34 37  .3V
*V4 36 34  -.3V
*** V5,V4 SET ISC
R16 34 97 7.55
E1 99 33 99 32 1
VA8 33 34 0V
******************************************
.MODEL DA D(IS=100E-14 RS=.5K)
.MODEL DB D(IS=100E-14 RS=.5K)
.MODEL DX D(IS=100E-14)
.MODEL Dp D(N=0.05)
.MODEL MOSFET PMOS(VTO=0 KP=1.8E-3)
*VTO ESTABLISHES INPUT VOLT. RANGE  , was -1.7
**
.ENDS MAX4212
